US07772268B2
1-(4-Methylpiperidine-1-carbonyl)-6-trifluoromethyl-1H-pyrazolo[3,4-b]pyridin-3-yl 4-methylpiperidine-1-carboxylate
In analogy to example, 1, 120 mg (0.59 mmol) of 6-trifluoromethyl-1H-pyrazolo-[3,4-b]pyridin-3-ol were reacted with 143.3 mg (0.89 mmol) of 4-methylpiperidine-1-carbonyl chloride. Yield: 71 mg (26%), M+H+: 454.27.

reactant | 6-trifluoromethyl-1H-pyrazolo-[3,4-b]pyridin-3-ol | 0.59 mmol, 120 mg | FC(C1=CC=C2C(=N1)NN=C2O)(F)F | C7H4F3N3O
reactant | 4-methylpiperidine-1-carbonyl chloride | 0.89 mmol, 143.3 mg | CC1CCN(CC1)C(=O)Cl | C7H12ClNO
product | 1-(4-Methylpiperidine-1-carbonyl)-6-trifluoromethyl-1H-pyrazolo[3,4-b]pyridin-3-yl 4-methylpiperidine-1-carboxylate | CC1CCN(CC1)C(=O)OC1=NN(C2=NC(=CC=C21)C(F)(F)F)C(=O)N2CCC(CC2)C | C21H26F3N5O3
